US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[1,1-dimethyl-2-(4-methyl-piperazin-1-yl)-ethyl]-1H-imidazol-4-yl}-amide
Following the procedure for Example 86, 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (diastereomer 2) was reacted with 1-[1,1-Dimethyl-2-(4-methyl-piperazin-1-yl)-ethyl]-1H-imidazol-4-ylamine to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.2, 19.5, 25.8, 25.9, 28.2, 28.9, 29.7, 36.5, 46.1, 52.9, 55.0, 55.7, 59.0, 60.9, 68.2, 101.1, 101.3, 104.5, 110.9, 131.3, 137.3, 172.3; MS m/z 503.3 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
reactant | 1-[1,1-Dimethyl-2-(4-methyl-piperazin-1-yl)-ethyl]-1H-imidazol-4-ylamine | CC(CN1CCN(CC1)C)(C)N1C=NC(=C1)N | C12H23N5
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[1,1-dimethyl-2-(4-methyl-piperazin-1-yl)-ethyl]-1H-imidazol-4-yl}-amide | CC(CN1CCN(CC1)C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C27H40F2N6O
